Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
elevated BP
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo G4P3 on PPD#7 after uncomplicated vaginal delivery and 
postpartum tubal ligation after IOL for pre-eclampsia without 
severe features. She did not need magnesium or 
anti-hypertensives during her pregnancy or postpartum. 
Postpartum her blood pressures were 120-130/70-80s per scanned 
records, blood pressure at time of her induction was 150/100. 
Her labs at the start of her induction were notable for 
proteinuria, otherwise within normal limits. She was seen at the 
clinic today for planned BP check and it was noted to be 170/102 
and she endorsed headaches and was sent to triage for 
evaulation. 

In triage, she reports intermittent headaches, bitemporal, that 
resolve either spontaneously or with tylenol or ibuprofen. Her 
last was this morning, rated ___ and resolved spontaneously. 
She notices "stars" in her vision sometimes if she stands up 
quickly but no blind spots. No RUQ pain. Some ___ edema, not 
worsened. Very minimal pain at incision site for postpartum 
tubal, controlled with ibprofen or tyelnol.  Lochia minimal. 
Nursing/pumping without issues. No breeast pain or redness. 
Tolerating regular diet, normal BM, no dysuria. No 
fevers/chills.

Patient interviewed with aid of ___ phone 
interpreter.

 
Past Medical History:
PObHx: G4P3
- G1: ___, SVD, no complications, 8 lb
- G2: ___, SVD, no complications, 8 lb
- G3: ___, SAB, reports "4 months" along, required D&C, no
complications
- G4: SVD ___ after IOL for pre-eclampsia with no severe
features, no magnesium, no meds

PGynHx:
- last Pap ___ normal, denies history of abnl paps
- Denies history of STIs
- history of fibrids

PMHx:
- positive PPD, s/p INH tx (per ___ records)
- obesity 

PSHx:
- D&C
- postpartum tubal ligation

 
Social History:
originally from ___. Denies T/E/D. Married, lives at home with 
husband and children

 
Physical Exam:
VS: T 98.4 HR 66 RR 16 BP 168/92 -> 166/89
Gen- NAD, alert
CV- RRR
Lungs- CTAB
Abd- soft, NT, fundus nontender, incision c/d/i with steristrips
Ext- 1+ lower extremity edema, calves nontender, 1+ reflexes
bilaterally

 
Pertinent Results:
___ 02:01PM   CREAT-0.6
___ 02:01PM   ALT(SGPT)-101*
___ 02:01PM   URIC ACID-4.9
___ 02:01PM   WBC-7.3 RBC-4.05* HGB-12.3 HCT-37.4 MCV-92 
MCH-30.3 MCHC-32.7 RDW-13.3
___ 02:01PM   PLT COUNT-282#
___ 01:57PM URINE  HOURS-RANDOM CREAT-13 TOT PROT-14 
PROT/CREA-1.1*
___ 01:57PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 01:57PM URINE  RBC-47* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-___ yo ___ s/p SVD and PPTL after IOL for pre-eclampsia without 
severe features who was readmitted with postpartum pre-eclampsia 
with severe features by BP and LTFs. On admission, patient had 
BP 164/88 and flashing spots in vision. She was given labetolol 
200 PO and started on Magnesium for 24 hours. She was continued 
on labetolol 200mg TID. By time of discharge, her BPs were well 
controlled and symptoms had resolved. She was discharged on 
___ in stable condition with follow-up scheduled. 

 
Medications on Admission:
acetaminophen, ibuprofen and percocet prn for pain

 
Discharge Medications:
1. Docusate Sodium 200 mg PO BID:PRN constipation 
2. Ibuprofen 400 mg PO Q8H:PRN pain 
3. Labetalol 200 mg PO TID 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pre-eclampsia with severe features

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were readmitted to the postpartum service for worsening 
blood pressures and abnormal labs. Your blood pressures are now 
under better control and you are safe to go home with outpatient 
followup. Please keep all scheduled appointments and take all 
medications as prescribed.
 
Followup Instructions:
___